US05208259
Using a similar procedure to that described in Example 12, 5-iodo-1,1,3,3-tetramethyl-1,3-dihydrobenzo[c]thiophene-2,2-dioxide was reacted with 4-(3-mercaptophenyl)-4-methoxytetrahydropyran to give 4-methoxy-4-[3-(1,1,3,3-tetramethyl-2,2-dioxo-1,3-dihydrobenzo[c]thien-5-ylthio)phenyl]tetrahydropyran in 28% yield, m.p. 133°-135° C.

reactant | 5-iodo-1,1,3,3-tetramethyl-1,3-dihydrobenzo[c]thiophene-2,2-dioxide | IC1=CC2=C(C(S(C2(C)C)(=O)=O)(C)C)C=C1 | C12H15IO2S
reactant | 4-(3-mercaptophenyl)-4-methoxytetrahydropyran | SC=1C=C(C=CC1)C1(CCOCC1)OC | C12H16O2S
product | 4-methoxy-4-[3-(1,1,3,3-tetramethyl-2,2-dioxo-1,3-dihydrobenzo[c]thien-5-ylthio)phenyl]tetrahydropyran | 28% yield | COC1(CCOCC1)C1=CC(=CC=C1)SC1=CC2=C(C(S(C2(C)C)(=O)=O)(C)C)C=C1 | C24H30O4S2
